US07504408B2
A suspension of 4-chloro-6-methoxyquinazolin-7-ol (0.6 g, 2.86 mmol), 1 bromo 4 chlorobutane (0.63 g, 3.7 mmol), potassium carbonate (1.19 g, 8.6 mmol) and dimethylformamide (10 ml) were heated to 95 C for 1.5 hours. The excess potassium carbonate was filtered off and the reaction evaporated under reduced pressure. The residue was purified by flash chromatography on silica eluting with a mixture of 60-100% dichloromethane in hexane and 30-50% ethyl acetate in hexane to give 4-chloro-7-(4-chlorobutoxy)-6-methoxyquinazoline as a solid (0.4 g, 47%)

reactant | 4-chloro-6-methoxyquinazolin-7-ol | 2.86 mmol, 0.6 g | ClC1=NC=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | bromo 4 chlorobutane | 3.7 mmol, 0.63 g | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | 8.6 mmol, 1.19 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-chloro-7-(4-chlorobutoxy)-6-methoxyquinazoline | 0.4 g, 47% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCCCl | C13H14Cl2N2O2
